US07825128B2
(RS)—S-(4-{[4-(cyclohexylamino)-5-(2-methyl-2H-tetrazol-5-yl)pyrimidine-2-yl]amino}phenyl)-S-methylsulfoximide
117 mg (0.23 mmol) (RS)—S-(4-{[4-(cyclohexylamino)-5-(2-methyl-2H-tetrazol-5-yl)pyrimidine-2-yl]amino}phenyl)-N-(ethoxycarbonyl)-S-methylsulfoximide) (Ex. 3.1) in 1.7 ml ethanol are treated with 0.4 mL (0.61 mmol) of a freshly prepared 1.53 molar sodium ethanolate solution and stirred for 7 hours at 60° C. The mixture is diluted with 2 mL ethanol and then treated with a further 1.0 ml (1.53 mmol) of the 1.53 molar sodium ethanolate solution. After 24 hours at 60° C., the mixture is heated to 70° C. and stirred for a further 20 hours. The mixture is treated with saturated NaCl solution and extracted with THF. The combined organic phases are dried (Na2SO4), filtered and concentrated. The resulting residue is chromatographically (DCM/EtOH 95:5) purified. 76 mg (0.18 mmol, corresponding to 76% of theor.) of the product is obtained.

reactant | (RS)—S-(4-{[4-(cyclohexylamino)-5-(2-methyl-2H-tetrazol-5-yl)pyrimidine-2-yl]amino}phenyl)-N-(ethoxycarbonyl)-S-methylsulfoximide | 0.23 mmol, 117 mg | C1(CCCCC1)NC1=NC(=NC=C1C=1N=NN(N1)C)NC1=CC=C(C=C1)S(=O)(=NC(=O)OCC)C | C22H29N9O3S
reactant | sodium ethanolate | 1.53 molar | C(C)[O-].[Na+]
reactant | sodium ethanolate | 1.53 molar | C(C)[O-].[Na+]
reactant | NaCl | [Na+].[Cl-]
solvent | ethanol | 1.7 ml | C(C)O | C2H6O
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | (RS)—S-(4-{[4-(cyclohexylamino)-5-(2-methyl-2H-tetrazol-5-yl)pyrimidine-2-yl]amino}phenyl)-S-methylsulfoximide | C1(CCCCC1)NC1=NC(=NC=C1C=1N=NN(N1)C)NC1=CC=C(C=C1)S(=O)(=N)C | C19H25N9OS
